US04735959
Ethyl 4-[N-(5-methoxy-α-phenyl-2-piperidino-benzyl)-aminocarbonyl-methyl]-benzoate
Four hundred seventy-two milligrams (1 m mol) of ethyl 4-[N-(5-hydroxy-α-phenyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate were dissolved in 25 ml of absolute dimethylformamide. After addition of 50 g of 50% sodium hydride, the mixture was stirred for 30 minutes. Then, 0.5 gm of methyl iodide were added dropwise, and the resulting mixture was stirred overnight. To work the mixture up, it was poured onto ice-water and extracted with methylene chloride. The concentrated extracts were purified by column chromatography on silica gel by use of toluene/ethyl acetate (4:1) as eluant.

reactant | ethyl 4-[N-(5-hydroxy-α-phenyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | Four hundred seventy-two milligrams | OC=1C=CC(=C(C(C2=CC=CC=C2)NC(=O)CC2=CC=C(C(=O)OCC)C=C2)C1)N1CCCCC1 | C29H32N2O4
reactant | sodium hydride | 50 g | [H-].[Na+]
reactant | methyl iodide | 0.5 gm | CI | CH3I
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-[N-(5-methoxy-α-phenyl-2-piperidino-benzyl)-aminocarbonyl-methyl]-benzoate | COC=1C=CC(=C(C(C2=CC=CC=C2)NC(=O)CC2=CC=C(C(=O)OCC)C=C2)C1)N1CCCCC1 | C30H34N2O4
